2197-03-20 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2197-3-19**] 12:31 PM
   -- will need to keep balloon in place for 5 days.  Monitor for 24-48
   hrs and then can call out. Keep NPO and cont ancef.
   -- Interventional Radiology aware unless actively bleeding no
   intervention today. Will keep NPO
   -- Hct 31.8 <-- 33.1
   -Hallucinations while falling asleep last night; none when opens eyes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2197-3-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-20**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 91 (78 - 120) bpm
   BP: 125/86(95) {108/70(82) - 126/92(103)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,330 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                  1,330 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    750 mL
   Urine:
                                                                    300 mL
                                                                    750 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    -63 mL
   Respiratory support
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, balloon in place in right
   nostril, dried blood around b/l nostrils, no acitve bleeding, MMM, OP
   Clear
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities. Patellar DTR +1. Plantar reflex downgoing. No gait
   disturbance. No cerebellar dysfunction.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   212 K/uL
   10.8 g/dL
   134 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   3 mg/dL
   103 mEq/L
   139 mEq/L
   30.4 %
   5.2 K/uL
         [image002.jpg]
                             [**2197-3-19**]  10:57 AM
                             [**2197-3-19**]  07:59 PM
                             [**2197-3-20**]  05:28 AM
   WBC
   6.6
   5.2
   Hct
   33.1
   31.8
   30.4
   Plt
   220
   212
   Cr
   0.6
   0.5
   Glucose
   121
   134
   Other labs: PT / PTT / INR:11.8/22.6/1.0, ALT / AST:40/30, Alk Phos / T
   Bili:60/0.3, Differential-Neuts:74.7 %, Lymph:16.9 %, Mono:7.5 %,
   Eos:0.5 %, LDH:131 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 EPISTAXIS (NOSEBLEED)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Assesment: This is a 29 year-old male with no past medical history of
   who presents with posterior arterial nose bleed.
   .
   Plan:
   #. Posterior Arterial Nosebleed: Pt with nosebleed since [**3-14**] with
   multiple visits the ED.  He was diagnosed with a posterior arterial
   nosebleed at [**Hospital1 **] [**Location (un) 3**] and a balloon was placed.  He was seen by ENT
   and given his continued bleeding and Hct drop (39.2 to 33.8) he was
   transferred for possible embolization.  He has remained hemodynamically
   stable and is not transfusion dependent.  Pt with no evidence of
   coagulopathy with normal INR/PTT. No prior history of bleeding and no
   family history of bleeding.  Patient denied trauma, foreign objects and
   drug abuse. Other possibilities include mass in the nasal cavity or
   vascular anomaly that could be source of bleeding. Although, no
   evidence when ENT visualized the bleed. No clear etiology for his
   bleed.
   -- Discussed with ENT and will keep balloon in place. Pt will have some
   continued bleeding, but if increased bleeding may need to place another
   balloon in left nostril. ENT to see patient and will f/u any additional
   recs
   -- Cont Cefazolin while balloon in place
   -- Interventional Neuroradiology aware of patient. Currently, if
   hemodynamically stable and not bleeding then will hold off on emergent
   embolization today.  If rebleeds then will re-contact and proceed with
   embolization, otherwise will re-evaluate tomorrow
   -- Neuroradiology will let us know if patient needs CT-angio
   -- Cont balloon in place
   -- will keep NPO, with IVF maintenence
   -- Monitor q8 Hct, transfuse Hct goal >21
   -- T&S with 3U cross-matched
   -- 2 large bore IV
   -- keep head forward and suctioning to prevent aspiration of blood
   .
   #[**Name (NI) 11251**] Per pt gets these over past few nights when falling
   asleep, visual and auditory; but when opens eyes they go away; presume
   [**3-21**] sleep deprivation
   # FEN: NPO for now, IVF
   .
   # Access: PIV
   .
   # PPx: bowel regimen prn, pneumoboots
   .
   # Code: FULL
   .
   # Dispo: ICU for now
   .
   # Comm: [**Name (NI) 651**] (Father)- [**Telephone/Fax (1) 11230**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-19**] 12:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2197-03-20 10:14:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night. No further bleeding, hct trended down from 33 to 30 with
   IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2197-3-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   cefazolin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-20**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 105 (77 - 120) bpm
   BP: 114/69(80) {108/69(80) - 126/92(103)} mmHg
   RR: 21 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,330 mL
                                                                    868 mL
   PO:
             TF:
   IVF:
                                                                  1,330 mL
                                                                    868 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    750 mL
   Urine:
                                                                    300 mL
                                                                    750 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    118 mL
   Respiratory support
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, clear oropharynx, no blood
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   212 K/uL
   134 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   3 mg/dL
   103 mEq/L
   139 mEq/L
   30.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2197-3-19**]  10:57 AM
                             [**2197-3-19**]  07:59 PM
                             [**2197-3-20**]  05:28 AM
   WBC
   6.6
   5.2
   Hct
   33.1
   31.8
   30.4
   Plt
   220
   212
   Cr
   0.6
   0.5
   Glucose
   121
   134
   Other labs: PT / PTT / INR:11.4/23.2/0.9, ALT / AST:40/30, Alk Phos / T
   Bili:60/0.3, Differential-Neuts:74.7 %, Lymph:16.9 %, Mono:7.5 %,
   Eos:0.5 %, LDH:131 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 EPISTAXIS (NOSEBLEED): continue balloon, no further bleeding. Will
   d/w ENT starting diet, and will plan on floor transfer. continue
   cefazolin,
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   decreased hct check to qday.. if he bleeds the bleeding will be overt.
Hallucination: likely related to sleep deprivation and REM
   deprivation... will follow should correct with sleep.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-19**] 12:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date. I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan. I would add/emphasize the following: epistaxis controlled, will
   need balloon tamponade x 5 days per ENT. Exam unremarkable except
   fortachycardia in 120s when standing. Acute blood loss anemia with
   stable hct overnight. No evidence of active bleeding. Agree that
hallucinations
 are likely related to sleep onset REM given sleep
   deprivation over past few days. Stable to transfer to tele. Time spent
   26 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2197-3-20**] 18:41 ------

2197-03-21 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2197-3-21**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 83 (71 - 108) bpm
   BP: 124/85(95) {104/61(71) - 124/87(95)} mmHg
   RR: 14 (8 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,488 mL
                                                                     50 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  1,968 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                      0 mL
   Urine:
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    588 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   11.0 g/dL
   104 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   3 mg/dL
   106 mEq/L
   141 mEq/L
   32.0 %
   4.6 K/uL
        [image002.jpg]
                             [**2197-3-19**]  10:57 AM
                             [**2197-3-19**]  07:59 PM
                             [**2197-3-20**]  05:28 AM
                             [**2197-3-21**]  03:37 AM
   WBC
   6.6
   5.2
   4.6
   Hct
   33.1
   31.8
   30.4
   32.0
   Plt
   220
   212
   251
   Cr
   0.6
   0.5
   0.5
   Glucose
   121
   134
   104
   Other labs: PT / PTT / INR:12.2/23.6/1.0, ALT / AST:40/30, Alk Phos / T
   Bili:60/0.3, Differential-Neuts:74.7 %, Lymph:16.9 %, Mono:7.5 %,
   Eos:0.5 %, LDH:131 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assesment: This is a 29 year-old male with no past medical history of
   who presents with posterior arterial nose bleed.
   .
   Plan:
   #. Posterior Arterial Nosebleed: Pt with nosebleed since [**3-14**] with
   multiple visits the ED.  He was diagnosed with a posterior arterial
   nosebleed at [**Hospital1 **] [**Location (un) 3**] and a balloon was placed.  He was seen by ENT
   and given his continued bleeding and Hct drop (39.2 to 33.8) he was
   transferred for possible embolization.  He has remained hemodynamically
   stable and is not transfusion dependent.  Pt with no evidence of
   coagulopathy with normal INR/PTT. No prior history of bleeding and no
   family history of bleeding.  Patient denied trauma, foreign objects and
   drug abuse. Other possibilities include mass in the nasal cavity or
   vascular anomaly that could be source of bleeding. Although, no
   evidence when ENT visualized the bleed. No clear etiology for his
   bleed.
   -- Discussed with ENT and will keep balloon in place. Pt will have some
   continued bleeding, but if increased bleeding may need to place another
   balloon in left nostril. ENT to see patient and will f/u any additional
   recs
   -- Cont Cefazolin while balloon in place
   -- Interventional Neuroradiology aware of patient. Currently, if
   hemodynamically stable and not bleeding then will hold off on emergent
   embolization today.  If rebleeds then will re-contact and proceed with
   embolization, otherwise will re-evaluate tomorrow
   -- Neuroradiology will let us know if patient needs CT-angio
   -- Cont balloon in place
   -- will keep NPO, with IVF maintenence
   -- Monitor Hct daily, transfuse Hct goal >21
   -- T&S with 3U cross-matched
   -- 2 large bore IV
   -- keep head forward and suctioning to prevent aspiration of blood
   .
   #[**Name (NI) 11251**] Per pt gets these over past few nights when falling
   asleep, visual and auditory; but when opens eyes they go away; presume
   [**3-21**] sleep deprivation
 EPISTAXIS (NOSEBLEED)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-19**] 12:07 PM
   Prophylaxis:
   DVT: (ambulatory)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Awaiting floor bed

2197-03-21 11:57:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 CALLED OUT. stable night no further hallucinations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2197-3-21**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   cefazolin, colace senna prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-21**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 74 (71 - 108) bpm
   BP: 111/80(87) {104/61(71) - 124/86(95)} mmHg
   RR: 14 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,488 mL
                                                                     50 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  1,968 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                      0 mL
   Urine:
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    588 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Head, Ears, Nose, Throat: Balloon in right nostril no bleeding noted,
   oropharynx clear
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   251 K/uL
   104 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   3 mg/dL
   106 mEq/L
   141 mEq/L
   32.0 %
   4.6 K/uL
        [image002.jpg]
                             [**2197-3-19**]  10:57 AM
                             [**2197-3-19**]  07:59 PM
                             [**2197-3-20**]  05:28 AM
                             [**2197-3-21**]  03:37 AM
   WBC
   6.6
   5.2
   4.6
   Hct
   33.1
   31.8
   30.4
   32.0
   Plt
   220
   212
   251
   Cr
   0.6
   0.5
   0.5
   Glucose
   121
   134
   104
   Other labs: PT / PTT / INR:12.2/23.6/1.0, ALT / AST:40/30, Alk Phos / T
   Bili:60/0.3, Differential-Neuts:74.7 %, Lymph:16.9 %, Mono:7.5 %,
   Eos:0.5 %, LDH:131 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 EPISTAXIS (NOSEBLEED): balloon in place, hct stable, no further
   bleeding. Tele while in bed because of risk of vagal episode with
   balloon in place.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING): stable
   hct
 Hallucinations: resolved likely [**3-21**] to sleep deprivation.
 Prophy: boots, hold off on s/c heparin, ambulate.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-19**] 12:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: